US07964607B2
(b) 5-amino-1-(2-methoxyphenyl)-1H-pyrazole-4-carboxamide
To a solution of 5-amino-1-(2-methoxyphenyl)-1H-pyrazole-4-carbonitrile (1.53 g) in saturated ammonium hydroxide (30 mL) was added 30% hydrogen peroxide solution (6 mL). The reaction stirred for 18 h at ambient temperature and was slowly quenched with 60 mL of a saturated sodium sulfate solution. The aqueous layer was extracted with ethyl acetate, dried with magnesium sulfate, filtered and concentrated. MPLC Biotage chromatography eluting with 2-6% methanol/methylene chloride provided the title compound 1.38 g (84%). 400 MHz 1H NMR (DMSO) δ 7.79 (s, 1 H), 7.42 (m, 1H), 7.25 (d, J=7.5 Hz, 2H), 7.19 (d, J=8.3 Hz, 2 H), 7.03 (t, J=6.2 Hz, 1H), 5.83 (s,2H), 3.76 (s, 3 H); MS: (M+H m/z=233.2).

reactant | 5-amino-1-(2-methoxyphenyl)-1H-pyrazole-4-carbonitrile | 1.53 g | NC1=C(C=NN1C1=C(C=CC=C1)OC)C#N | C11H10N4O
reactant | hydrogen peroxide | 6 mL | OO | H2O2
solvent | ammonium hydroxide | 30 mL | [OH-].[NH4+]
product | 5-amino-1-(2-methoxyphenyl)-1H-pyrazole-4-carboxamide | 1.38 g, 84% | NC1=C(C=NN1C1=C(C=CC=C1)OC)C(=O)N | C11H12N4O2
